US07105554B2
4-[(4-Methoxyphenyl)methoxy]-3-(phenylmethoxy)benzaldehyde
Benzyl bromide (13.56 mL, 0.11 mol, 1.1 eq) was added to a solution of 3-hydroxy-4-[(4-methoxyphenyl)methoxy]benzaldehyde (26.91 g, 0.10 mL, 1 eq) and cesium carbonate (20.37 g, 0.06 mol, 0.6 eq) in N,N-dimethylformamide (150 mL). The reaction mixture was stirred overnight and then concentrated in vacuo. The residual solution was diluted with ethyl acetate (200 mL) and washed with water (200 mL), saturated sodium chloride solution (3×200 mL), and 0.5M aqueous sodium hydroxide (3×200 mL), then dried over sodium sulfate and evaporated in vacuo. This gave a gummy solid which was recrystallized from ethyl acetate and petroleum ether to give the product as a pale brown powder (25.93 g, 71%). 1H NMR (CDCl3) δ 9.81 (s, 1H, O═C—H), 5.21 (s, 2H, CH2Ar), 5.20 (s, 2H, CH2Ar), 3.84 (s, 3H, OCH3).

reactant | Benzyl bromide | 0.11 mol, 13.56 mL, 1.1 eq | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 3-hydroxy-4-[(4-methoxyphenyl)methoxy]benzaldehyde | 0.10 mL, 26.91 g, 1 eq | OC=1C=C(C=O)C=CC1OCC1=CC=C(C=C1)OC | C15H14O4
reactant | cesium carbonate | 0.06 mol, 20.37 g, 0.6 eq | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
product | 4-[(4-Methoxyphenyl)methoxy]-3-(phenylmethoxy)benzaldehyde | 25.93 g, 71% | COC1=CC=C(C=C1)COC1=C(C=C(C=O)C=C1)OCC1=CC=CC=C1 | C22H20O4
